US05008417
A flask equipped with a dry ice condenser was flame dried under a nitrogen stream, and charged with 3.1 mL (17 mmol) of chlorodiphenylphosphine and 10 mL of dichloromethane. After cooling the resulting solution to -78° C. and charging the condenser with dry ice and acetone, 4 mL (43 mmol) of bromotrifluoromethane (Freon 13B1) that had been condensed into a graduated tube was warmed to room temperature and allowed to distill into the flask. The cold solution was treated dropwise with 7 mL (26 mmol) of hexaethylphosphorous triamide, allowed to stir at "78° C. for 1 hour, and allowed to stir at room temperature overnight. Dilution with 50 mL of dichloromethane, water washing (three 50 mL portions), drying (MgSO4), and concentration afforded a brown liquid which was purified by flash chromatography on 50g of silica gel (230-400 mesh) eluted with petroleum ether to give 2.9g (68% yield) of diphenyltrifluoromethylphosphine as a colorless liquid. 19F NMR (CDCl3, relative to CFCl3) -55.60 ppm (d, JPF =73 Hz); 31P NMR (CDCl3, relative to H3PO4) 3.11 ppm (quartet of pentets, JPF =73 Hz, JPH =8 Hz); mass spectrum (70 eV) m/z (relative intensity) 254 (41, M+), 185 (74), 183 (100), 127 (23), 107 (40), 77 (26), 69 (65), 51 (54).

reactant | chlorodiphenylphosphine | 17 mmol, 3.1 mL | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | dry ice | C(=O)=O | CO2
reactant | bromotrifluoromethane | 43 mmol, 4 mL | BrC(F)(F)F | CBrF3
reactant | hexaethylphosphorous triamide | 26 mmol, 7 mL | C(C)N(P(N(CC)CC)N(CC)CC)CC | C12H30N3P
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | diphenyltrifluoromethylphosphine | 2.9g, 68% yield | C1(=CC=CC=C1)P(C(F)(F)F)C1=CC=CC=C1 | C13H10F3P
